US07528262B2
1-(4-Methoxyphenyl)-2-methyl-1H-indole.
1-(4-Methoxyphenyl)-2-methyl-1H-indole was synthesized according to Buchwald et al. J. Am. Chem. Soc. 2001, 123, 7727. 2-Methylindole (157 mg, 1.2 mmol), 4-iodoanisole (234 mg, 1 mmol), copper(I) iodide (2 mg, 0.01 mmol), trans-1,2-diaminocyclohexane (11.4 mg, 0.1 mmol), and potassium phosphate tribasic (446 mg, 2.1 mmol) were stirred in dioxane (1 mL) at 90° C. overnight. The reaction mixture was filtered through a pad of silica and washed with ethyl acetate. SiO2 chromatography with 5-20% ethyl acetate/hexanes gave 175 mg of the desired product (74% yield). LC-MS (C16H15NO calc'd 237) m/z 238 (M+H).

reactant | 2-Methylindole | 1.2 mmol, 157 mg | CC=1NC2=CC=CC=C2C1 | C9H9N
reactant | 4-iodoanisole | 1 mmol, 234 mg | IC1=CC=C(C=C1)OC | C7H7IO
reactant | trans-1,2-diaminocyclohexane | 0.1 mmol, 11.4 mg | N[C@H]1[C@@H](CCCC1)N | C6H14N2
reactant | potassium phosphate tribasic | 2.1 mmol, 446 mg | [O-]P(=O)([O-])[O-].[K+].[K+].[K+]
solvent | dioxane | 1 mL | O1CCOCC1 | C4H8O2
catalyst | copper(I) iodide | 0.01 mmol, 2 mg | [Cu]I
product | 1-(4-Methoxyphenyl)-2-methyl-1H-indole | 175 mg, 74% yield | COC1=CC=C(C=C1)N1C(=CC2=CC=CC=C12)C | C16H15NO
